US04879389
(d) Preparation of (2S,4S)-N-methanesulfonyl-2-tert-butyldimethylsilyloxymethyl-4-diphenylphosphinopyrrolidine [VI]
To 150 ml of dioxane were added 11.39 g (0.052 mol) of chlorodiphenylphosphine and 2.6 g (0.114 mol) of sodium, and the mixture was refluxed for 4 hours in nitrogen atmosphere. After allowing the mixture to stand for cooling, 50 ml of tetrahydrofuran was added to the reaction mixture, and a solution of 10.45 g (0.027 mol) of (2S,4R)-N-methanesulfonyl-2-tert-butyldimethylsilyloxymethyl-4-methanesulfonyloxypyrrolidine [V] in 100 ml of tetrahydrofuran was added dropwise to the mixture lest any air should enter in the reaction system. The mixture was stirred in nitrogen atmosphere at 0° C. for 2 hours and then at room temperature overnight and then any insoluble matter was removed, for example, by filtration. The filtrate was concentrated until dryness under reduced pressure and the residue was purified by column chromatography on silica gel whereby 7.93 g (yield: 62%) of an oily substance was obtained.

reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | chlorodiphenylphosphine | 0.052 mol, 11.39 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | sodium | 0.114 mol, 2.6 g | [Na] | Na
reactant | (2S,4R)-N-methanesulfonyl-2-tert-butyldimethylsilyloxymethyl-4-methanesulfonyloxypyrrolidine | 0.027 mol, 10.45 g | CS(=O)(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CO[Si](C)(C)C(C)(C)C | C13H29NO6S2Si
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,4S)-N-methanesulfonyl-2-tert-butyldimethylsilyloxymethyl-4-diphenylphosphinopyrrolidine | yield: 62% | CS(=O)(=O)N1[C@@H](C[C@@H](C1)P(C1=CC=CC=C1)C1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C | C24H36NO3PSSi
